US06723722B1
A mixture of tert-butoxycarbonylhydrazine (53 g), bromoacetoaldehyde dimethyl acetal (63.88 g), potassium carbonate (52 g) and potassium iodide (62.7 g) in DMF (350 ml) was stirred at 70° C. for 15 hours. Any insolubles were filtered off and the filtrate was combined with N-benzyloxycarbonyl glycine (79 g), HOBt (58 g) and WSC (87 g), and then stirred at room temperature for 15 hours. The reaction mixture was concentrated to obtain a residue, which was then partitioned between ethyl acetate and water, and the organic phase was washed with water, aqueous sodium bicarbonate, aqueous solution of citric acid and brine, dried and concentrated. The residue thus obtained was dissolved in toluene (1200 ml) and treated with p-toluenesulfonic acid hydrate (16.4 g) in 4 portions at an interval of 30 minutes, and stirred at 100° C. for 10 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate and brine, dried and concentrated. The residue thus obtained was purified by a column chromatography on a silica gel (hexane:ethyl acetate=3:1) to obtain 4-benzyloxycarbonyl-1-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydropyrazine (19.36 g) as a colorless oil.

reactant | tert-butoxycarbonylhydrazine | 53 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | bromoacetoaldehyde dimethyl acetal | 63.88 g | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 62.7 g | [I-].[K+]
reactant | p-toluenesulfonic acid hydrate | 16.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | DMF | 350 ml | CN(C)C=O | C3H7NO
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyloxycarbonyl-1-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydropyrazine | 19.36 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)NC(=O)OC(C)(C)C)=O | C17H21N3O5
